US08389524B2
(i) 1-(2,3-Dihydroxypropyl)-7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one
A solution of butyl 3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]propanoate (6.065 g, 13.911 mmol) in methanol (100 ml) was treated with concentrated aqueous HCl (12M, 50 ml) and then heated at reflux for 48 h. The reaction mixture was then concentrated to approximately 50 ml, neutralised with potassium carbonate and extracted with 20% methanol/DCM (3×100 ml). The organic extracts were dried (MgSO4), and evaporated to give the crude product as a yellow oil (2.325 g, 66%).

reactant | butyl 3-[2-{(2,2-dimethylpropanoyl)[(2-oxo-1,3-dioxolan-4-yl)methyl]amino}-6-(methyloxy)-3-pyridinyl]propanoate | 13.911 mmol, 6.065 g | CC(C(=O)N(C1=NC(=CC=C1CCC(=O)OCCCC)OC)CC1OC(OC1)=O)(C)C | C22H32N2O7
reactant | HCl | 12M, 50 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 2.325 g, 66% | OC(CN1C(CCC2=CC=C(N=C12)OC)=O)CO | C12H16N2O4
